US08497264B2
A flask was charged with 2,4-dibromophenol (50.4 g, 200 mmol), potassium carbonate (69.1 g, 500 mmol) and acetone (500 mL). The suspension was stirred at RT for 30 minutes and then treated dropwise with chloromethyl ethyl ether (19 mL, 213 mmol). After 3 h at RT the mixture was filtered and the filtrate was partitioned between EtOAc and water. The organic phase was separated, washed with water, aqueous saturated NaHCO3 and brine. The organic phase was dried over MgSO4 and the solvent was removed under reduced pressure to afford 54.2 g 2,4-dibromo-1-(methoxymethoxy)benzene, which was used in the next step without further purification.

reactant | 2,4-dibromophenol | 200 mmol, 50.4 g | BrC1=C(C=CC(=C1)Br)O | C6H4Br2O
reactant | potassium carbonate | 500 mmol, 69.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl ethyl ether | 213 mmol, 19 mL | C(C)OCCl | C3H7ClO
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | 2,4-dibromo-1-(methoxymethoxy)benzene | 54.2 g | BrC1=C(C=CC(=C1)Br)OCOC | C8H8Br2O2
